US06331556B2
4-Bromo-2-(tetrahydrofuran-3-yl)-benzofuran-7-ol
Tetrabutylammonium fluoride (8.1 ml, 1M in tetrahydrofuran) was added to a stirred solution of [4-bromo-2-(tetrahydrofuran-3-yl)-benzofuran-7-yloxy]-tert-butyldimethylsilane (2.69 g) in dry tetrahydrofuran (80 ml) at 0° C. under a dry nitrogen atmosphere. After stirring at this temperature for 45 minutes the solvent was removed in vacuo. The residue was partitioned between ethyl acetate (75 ml) and water (75 ml). The organic extract was dried over magnesium sulphate, filtered and concentrated in vacuo. Purification by column chromatography on silica eluting with 50% ethyl acetate in heptane afforded the title compound as a clear oil (1 g).

reactant | Tetrabutylammonium fluoride | 1M, 8.1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | [4-bromo-2-(tetrahydrofuran-3-yl)-benzofuran-7-yloxy]-tert-butyldimethylsilane | 2.69 g | BrC1=CC=C(C2=C1C=C(O2)C2COCC2)O[Si](C)(C)C(C)(C)C | C18H25BrO3Si
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4-Bromo-2-(tetrahydrofuran-3-yl)-benzofuran-7-ol | 1 g | BrC1=CC=C(C2=C1C=C(O2)C2COCC2)O | C12H11BrO3
